US07279469B2
N3-(4-Difluoromethoxy-3-isopropoxy-phenyl)-1-pyridin-2-yl-1H-[1,2,4]triazole-3,5-diamine:
A mixture of N-cyano-N′-(4-difluoromethoxy-3-iso-propyloxyphenyl)-O-phenylisourea (0.10 g, 0.28 mmol) and 2-hydrazino-pyridine (0.06 g, 0.56 mmol) in dimethylacetamide (3 mL) was heated in the microwave apparatus at 220° C. for 15 min. The reaction was cooled, poured into ice-water and stirred for 0.5 h. The precipitate was filtered off, washed with cold water and dried to provide the title compound (0.10 g, 97% yield) as a pale pink solid.

reactant | N-cyano-N′-(4-difluoromethoxy-3-iso-propyloxyphenyl)-O-phenylisourea | 0.28 mmol, 0.10 g | C(#N)NC(OC1=CC=CC=C1)=NC1=CC(=C(C=C1)OC(F)F)OC(C)C | C18H17F2N3O3
reactant | 2-hydrazino-pyridine | 0.56 mmol, 0.06 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | N3-(4-Difluoromethoxy-3-isopropoxy-phenyl)-1-pyridin-2-yl-1H-[1,2,4]triazole-3,5-diamine | 0.10 g, 97% yield | FC(OC1=C(C=C(C=C1)NC1=NN(C(=N1)N)C1=NC=CC=C1)OC(C)C)F | C17H18F2N6O2
